US07816395B2
a) 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(1-methylethyl)amino]butanoate
A mixture of 1,1-dimethylethyl (3S)-4-amino-3-[(3-chloro-4-cyanophenyl)amino]butanoate (0.309 g, 1 mmol), acetone cyanohydrin (0.1 g, 1.18 mmol) and crushed 4 Å molecular sieves in EtOH (5 mL) was stirred at 60° C. for 6 h. After cooled down, the reaction mixture was filtered. The filtrate was treated with NaBH4 (excess amount) and stirred for 2.5 h. The reaction was diluted with H2O and extracted with Et2O (2×). The organic extracts were washed with H2O (2×), dried over Na2SO4, filtered, and concentrated to yield the titled product (0.33 g, 94%). LC-MS (ES) m/e 352.5 (M+H)+.

reactant | 1,1-dimethylethyl (3S)-4-amino-3-[(3-chloro-4-cyanophenyl)amino]butanoate | 1 mmol, 0.309 g | NC[C@H](CC(=O)OC(C)(C)C)NC1=CC(=C(C=C1)C#N)Cl | C15H20ClN3O2
reactant | acetone cyanohydrin | 1.18 mmol, 0.1 g | CC(C#N)(O)C | C4H7NO
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1,1-Dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(1-methylethyl)amino]butanoate | 0.33 g, 94% | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CNC(C)C | C18H26ClN3O2
